US04716241
20 g of 2,2,5,5-tetramethylcyclopentylidenemethyl methyl sulfoxide was dissolved in 200 ml of tetrahydrofuran, and 4.0 g of lithium aluminum hydride was added thereto in small portions. The mixture was stirred at room temperature for 10 hours, and then 100 ml of ethyl acetate was added dropwise thereto. After the mixture was subjected to filtration, the filtrate was concentrated under reduced pressure. The oily substance was subjected to silica gel column chromatography using ethyl acetate-n-hexane as an eluent, whereby 13.8 g of 2,2,5,5-tetramethylcyclopentylidenemethyl methyl sulfide was obtained as an oily substance.

reactant | 2,2,5,5-tetramethylcyclopentylidenemethyl methyl sulfoxide | 20 g | CS(=O)C=C1C(CCC1(C)C)(C)C | C11H20OS
reactant | lithium aluminum hydride | 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,2,5,5-tetramethylcyclopentylidenemethyl methyl sulfide | 13.8 g | CSC=C1C(CCC1(C)C)(C)C | C11H20S
